US08912210B2
Step B: tert-Butyl[(3S,5S)-5-(2-fluorophenyl)-2-oxopiperidin-3-yl]carbamate
To a solution of methyl N-(tert-butoxycarbonyl)-4-(2-fluorophenyl)-5-nitrilonorvalinate (3.88 g, 11.5 mmol) in ethanol (50 mL) was added Raney nickel (slurry in water, ca. 10 g). The mixture was placed under a balloon of hydrogen and the reaction was stirred at 23° C. for 4 h. The mixture was filtered and concentrated to afford a mixture of 4 diastereoisomers. A solution of this residue in ethanol (100 mL) was stirred in the presence of solid potassium carbonate (1.30 g, 9.44 mmol) at 60° C. for 2 h. The bulk of the ethanol was removed under reduced pressure and the remaining slurry was diluted with water to afford a white precipitate. The precipitate was filtered, washed with water and then dried under vacuum at 40° C. for 18 h. The enantiomers were separated using normal-phase HPLC using a ChiralPak® AD column, eluting with 40% hexane in ethanol (0.1% diethylamine used as a modifier) to afford the title compound as the second major enantiomer to elute. MS: m/z=331.1 (M+Na).

reactant | methyl N-(tert-butoxycarbonyl)-4-(2-fluorophenyl)-5-nitrilonorvalinate | 11.5 mmol, 3.88 g | C(C)(C)(C)OC(=O)N[C@@H](CC(C#N)C1=C(C=CC=C1)F)C(=O)OC | C17H21FN2O4
reactant | hydrogen | [H][H] | H2
reactant | potassium carbonate | 9.44 mmol, 1.30 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | Raney nickel | ca. 10 g | [Ni] | Ni
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | tert-Butyl[(3S,5S)-5-(2-fluorophenyl)-2-oxopiperidin-3-yl]carbamate | C(C)(C)(C)OC(N[C@@H]1C(NC[C@@H](C1)C1=C(C=CC=C1)F)=O)=O | C16H21FN2O3
